### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): locally directed colimits in `P.Over ⊤ S`

### PR DESCRIPTION
**Pull request by chrisflav**
We lift the colimit properties of `Scheme` to `P.Over ⊤ S` if `IsLocalAtSource P`. In particular, `P.Over ⊤ S` has pushouts along open immersions and (small) coproducts.

We also add two instances, that make
```
example {U X Y : Scheme.{u}} (f : U ⟶ X) (g : U ⟶ Y)
    [IsOpenImmersion f] [IsOpenImmersion g] : HasPushout f g :=
  inferInstance
```
work.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Limits.lean [hunk 1]
```diff
@@ -509,6 +509,21 @@ instance [IsAffine X] [IsAffine Y] : IsAffine (X ⨿ Y) :=
...
+  · simpa using f.isOpenEmbedding.injective
+  · simpa using g.isOpenEmbedding.injective
+
+instance {U X Y : Scheme} (f : U ⟶ X) (g : U ⟶ Y) [IsOpenImmersion f] [IsOpenImmersion g]
+    {i j : WalkingSpan} (t : i ⟶ j) : IsOpenImmersion ((span f g).map t) := by
+  obtain (a|(a|a)) := t
+  · simp only [WidePushoutShape.hom_id, CategoryTheory.Functor.map_id]
+    infer_instance
+  · simpa
+  · simpa
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Limits.lean:530]: These look oddly specific and I am guessing it could just go in the new file along with the `IsOpenImmersion ((span f g).map t).left` instances?

File: Mathlib/AlgebraicGeometry/LimitsOver.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+  [Quiver.IsThin J] [Small.{u} J]
+
+noncomputable instance : HasColimit F :=
+  have {i j} (f : i ⟶ j) : IsOpenImmersion ((F ⋙ Over.forget S).map f) :=
+    inferInstanceAs <| IsOpenImmersion (F.map f).left
+  have : ((F ⋙ Over.forget S) ⋙ Scheme.forget).IsLocallyDirected := ‹_›
+  hasColimit_of_created _ (Over.forget S)
+
+instance : HasFiniteCoproducts (Over S) where
+  out := inferInstance
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/LimitsOver.lean]: This should probably not be here?

File: Mathlib/AlgebraicGeometry/Limits.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Limits.lean:530]: These are here to make
```
example {U X Y : Scheme.{u}} (f : U ⟶ X) (g : U ⟶ Y)
    [IsOpenImmersion f] [IsOpenImmersion g] : HasPushout f g :=
  inferInstance
```
work, which I think is what we want to have globally.

File: Mathlib/AlgebraicGeometry/LimitsOver.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+import Mathlib.AlgebraicGeometry.Limits
+import Mathlib.AlgebraicGeometry.Morphisms.Basic
+import Mathlib.CategoryTheory.MorphismProperty.Comma
+
+/-!
+# (Co)limits in over categories
+
+We show that if `P` is a morphism property in `Scheme` that is local at the source, then
+(co)limits in `P.Over ⊤ X` for `X : Scheme` of locally directed diagrams of open immersions
+exist and agree with the colimit in `Scheme`.
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/LimitsOver.lean:16]: I didn't see the result about limits?

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/LimitsOver.lean:16]: Oh, this should indeed just be `colimits`.

File: Mathlib/AlgebraicGeometry/Limits.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Limits.lean:530]: Ah okay makes sense. In that case can you add this example?

File: Mathlib/AlgebraicGeometry/LimitsOver.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
+/-
+Copyright (c) 2025 Christian Merten. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Christian Merten
+-/
+import Mathlib.AlgebraicGeometry.Limits
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/LimitsOver.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 5]
```diff
@@ -101,6 +101,24 @@ lemma CostructuredArrow.closedUnderLimitsOfShape_discrete_empty [L.Faithful] [L.
   rw [P.costructuredArrowObj_iff, P.costructuredArrow_iso_iff e]
   simpa using P.id_mem (L.obj Y)
 
+lemma closedUnderColimitsOfShape {J : Type*} [Category J] {P : MorphismProperty T}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: You may have to make little fixes after merging master (following #29881).

Comment (chrisflav) [reply Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: Fixed, thanks!
